US04725676
5-(3,5-dicarboxy-phenylazo)-2-hydroxy-phenylacetic acid
12 g of 5-(3,5-bis-(methoxycarbonyl)-phenylazo)-2-hydroxyphenylacetic acid, 350 ml of water and 7 g of sodium hydroxide were boiled for 1 hour. 50 ml of ethanol was added, and the solution was diluted with water to 500 ml. The hot solution was acidified with hydrochloric acid to pH 2 and cooled. The crystals were filtered off, washed with water and dried.

reactant | 5-(3,5-bis-(methoxycarbonyl)-phenylazo)-2-hydroxyphenylacetic acid | 12 g | COC(=O)C=1C=C(C=C(C1)C(=O)OC)N=NC=1C=CC(=C(C1)CC(=O)O)O | C18H16N2O7
reactant | sodium hydroxide | 7 g | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 350 ml | O | H2O
product | 5-(3,5-dicarboxy-phenylazo)-2-hydroxy-phenylacetic acid | C(=O)(O)C=1C=C(C=C(C1)C(=O)O)N=NC=1C=CC(=C(C1)CC(=O)O)O | C16H12N2O7
